US06677487B2
Synthesis of 1-methyl-4-(BOC amino)imidazole-2-carbonyl chloride
N-(1-chloro-2-methylprop-1-enyl)-N,N-dimethylamine (660 μL, 4.99 mmol) was added to a mixture of 1-methyl-4-(BOC amino)imidazole-2-carboxylic acid (1.00 g, 4.17 mmol) in CHCl3 (8.00 mL). After a few minutes, the 1H-NMR of the reaction mixture showed complete conversion of the acid to the acid chloride. 1H NMR (CDCl3): δ 7.48 (br s, 1H), 3.95 (s, 3H), 1.50 (s, 9H).

reactant | N-(1-chloro-2-methylprop-1-enyl)-N,N-dimethylamine | 4.99 mmol, 660 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 1-methyl-4-(BOC amino)imidazole-2-carboxylic acid | 4.17 mmol, 1.00 g | CN1C(=NC(=C1)NC(=O)OC(C)(C)C)C(=O)O | C10H15N3O4
solvent | CHCl3 | 8.00 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-4-(BOC amino)imidazole-2-carbonyl chloride | CN1C(=NC(=C1)NC(=O)OC(C)(C)C)C(=O)Cl | C10H14ClN3O3
